US05217969
Using a similar procedure to that described in Example 16, (R)(-)-4-[5-fluoro-3-(2-methyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-7-ylthio)phenyl]-4-methoxytetrahydropyran was reacted with methyl iodide to give (R)-(-)-4-[5-fluoro-3-(2,4-dimethyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-7-ylthio)phenyl]-4-methoxytetrahydropyran in 42% yield,

reactant | (R)(-)-4-[5-fluoro-3-(2-methyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-7-ylthio)phenyl]-4-methoxytetrahydropyran | FC=1C=C(C=C(C1)C1(CCOCC1)OC)SC1=CC2=C(NC([C@H](O2)C)=O)C=C1 | C21H22FNO4S
reactant | methyl iodide | CI | CH3I
product | (R)-(-)-4-[5-fluoro-3-(2,4-dimethyl-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-7-ylthio)phenyl]-4-methoxytetrahydropyran | 42% yield | FC=1C=C(C=C(C1)C1(CCOCC1)OC)SC1=CC2=C(N(C([C@H](O2)C)=O)C)C=C1 | C22H24FNO4S
